US07732622B2
Ethyl[4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate
A solution of 2,3-bis(bromomethyl)-1,4-diethoxy-naphthalene (41 mg, 0.1 mmol) and 4-aminophenylacetic acid ethyl ester (20 mg, 0.11 mmol) in N,N-dimethylformamide (1 ml) was heated at 60° C. under nitrogen for 14 h. The solvent was removed in vacuo and the residue taken up in ethyl acetate (10 ml) and washed with 8% aqueous sodium bicarbonate solution (5 ml). The organic layer was dried over magnesium sulphate and the solvent removed in vacuo. Purification by flash column chromatography on silica gel eluting with 90% cyclohexane/ethyl acetate gave the product as a white solid (15 mg, 36%).

reactant | 2,3-bis(bromomethyl)-1,4-diethoxy-naphthalene | 0.1 mmol, 41 mg | BrCC1=C(C2=CC=CC=C2C(=C1CBr)OCC)OCC | C16H18Br2O2
reactant | 4-aminophenylacetic acid ethyl ester | 0.11 mmol, 20 mg | C(C)OC(CC1=CC=C(C=C1)N)=O | C10H13NO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Ethyl[4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 15 mg, 36% | C(C)OC(CC1=CC=C(C=C1)N1CC=2C(=C3C(=C(C2C1)OCC)C=CC=C3)OCC)=O | C26H29NO4
